US06211234B1
A solution of ethyl bromodifluoroacetate (5.6 g) and 2-methylbenzaldehyde (3 g) in THF (25 mL) is added dropwise to a refluxing suspension of activated zinc dust (2.1 g) in THF (25 mL) and refluxing continued for a further 4 hours. The reaction is allowed to cool to ambient temperature, filtered through hyflo and concentrated in vacuo to give a yellow solid. The solid is taken up in ethyl acetate (50 mL) and washed with brine which leads to the formation of a white precipitate which is filtered off then partitioned between ethyl acetate (50 mL) and 1 N HCl (50 mL). The organic phase is washed with water, dried over magnesium sulphate, filtered and concentrated in vacuo to give (RS)-2,2-difluoro-3-hydroxy-3-(2-methylphenyl)propanoic acid as a yellow solid (2.4 g)

reactant | ethyl bromodifluoroacetate | 5.6 g | BrC(C(=O)OCC)(F)F | C4H5BrF2O2
reactant | 2-methylbenzaldehyde | 3 g | CC1=C(C=O)C=CC=C1 | C8H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
catalyst | zinc | 2.1 g | [Zn] | Zn
product | (RS)-2,2-difluoro-3-hydroxy-3-(2-methylphenyl)propanoic acid | 2.4 g | FC(C(=O)O)(C(C1=C(C=CC=C1)C)O)F | C10H10F2O3
